US06417183B1
1-Methyl-4-(6-bromo-1,2,3,4-tetrahydro-1-naphthalenyl)homopiperazine
N-Methylhomopiperazine (2.31 g; 20.2 mmol) and potassium iodide (0.35 g; 2.2 mmol) in DMF (13 ml) were reacted with 1-chloro-6-bromo-1,2,3,4-tetrahydronapthalene (2.48 g; 10.1 mmol) in DMF (8 ml) as in Example 15. The yellow oil was kugelrohr distilled to give the title compound, 1.47 g, bp (air bath temperature) 152°-165° C. at 0.10 torr; 1H NMR (300 MHz, CDCl3) δ 2.38 (s, 3H, NCH3), 3.81 (t, 1H, ArCHN), 7.19 (s, 1H), 7.25 (d, 1H), 7.64 (d, 1H). Anal: Calcd. for C16H23BrN2: C, 59.45; H, 7.17; N, 8.67. Found: C, 59.40; H, 7.02; N, 8.30. 1-Chloro-6-bromo-1,2,3,4-tetrahydronaphthalene was prepared as follows:

reactant | N-Methylhomopiperazine | 20.2 mmol, 2.31 g | CN1CCNCCC1 | C6H14N2
reactant | potassium iodide | 2.2 mmol, 0.35 g | [I-].[K+]
reactant | 1-chloro-6-bromo-1,2,3,4-tetrahydronapthalene | 10.1 mmol, 2.48 g | ClC1CCCC2=CC(=CC=C12)Br | C10H10BrCl
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-4-(6-bromo-1,2,3,4-tetrahydro-1-naphthalenyl)homopiperazine | CN1CCN(CCC1)C1CCCC2=CC(=CC=C12)Br | C16H23BrN2
